US05559113
4-[2-(4-Propylphenoxy)ethyl]-1H-imidazole
240 mg (60% in oil; 6 mmol) of sodium hydride are slowly added to a solution of 1.63 g (12 mmol) of 4-propylphenol in 10 ml of dimethylformamide and the mixture is stirred at room temperature for 1 hour. 200 mg (1.2 mmol) of 4-(2-chloroethyl)-1H-imidazole hydrochloride and tetrabutylammonium iodide are added and the mixture is stirred at 80° C. for 3 days. The reaction mixture is cooled and 150 ml of diethyl ether are added. The precipitate is separated by filtration and the filtrate is evaporated under reduced pressure to give a residue which is purified by preparative high performance chromatography. The title compound is converted to the oxalate (from an ethanol/diethyl ether mixture), M.p.: 168°-171° C.

reactant | sodium hydride | 6 mmol, 240 mg | [H-].[Na+]
reactant | 4-propylphenol | 12 mmol, 1.63 g | C(CC)C1=CC=C(C=C1)O | C9H12O
reactant | 4-(2-chloroethyl)-1H-imidazole hydrochloride | 1.2 mmol, 200 mg | Cl.ClCCC=1N=CNC1
reactant | diethyl ether | 150 ml | C(C)OCC | C4H10O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
catalyst | tetrabutylammonium iodide | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 4-[2-(4-Propylphenoxy)ethyl]-1H-imidazole | C(CC)C1=CC=C(OCCC=2N=CNC2)C=C1 | C14H18N2O
